US06509349B1
2-(4-Chloro-3-methoxy-2-pyridinyl)-butyronitrile
2-(4-Chloro-3-methoxy-2-pyridinyl)-acetonitrile (7.06 g) is dissolved in THF (40 ml) and 60% sodium hydride (1.62 g) is added followed by 3.25 ml of ethyl iodide. The reaction is allowed to stir at 45° C. for 1.5 hour then the reaction mixture is diluted with water and extracted with ethyl acetate. The desired product is purified by chromatography using hexane/ethyl acetate 4/1 as solvent.

reactant | 2-(4-Chloro-3-methoxy-2-pyridinyl)-acetonitrile | 7.06 g | ClC1=C(C(=NC=C1)CC#N)OC | C8H7ClN2O
reactant | sodium hydride | 1.62 g | [H-].[Na+]
reactant | ethyl iodide | 3.25 ml | C(C)I | C2H5I
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-Chloro-3-methoxy-2-pyridinyl)-butyronitrile | ClC1=C(C(=NC=C1)C(C#N)CC)OC | C10H11ClN2O
